US06432947B1
To N-methyl-β-alaninenitrile (50 g, mmol in acetonitrile was added piperonyl chloride (50 g, mmol). After stirring for 18 h, the solvent was removed in vacuo. The residue was dissolved in CH2Cl2, washed with aqueous carbonate, dried (MgSO4), and the solvent was removed in vacuo. The residue was dissolved in methanol saturated with ammonia (600 mL) and Raney nickel (10 g) was added. After shaking under an atmosphere of hydrogen at 20 psi for 6 h, the reaction was filtered through celite and the solvent was removed in vacuo to give 65 g of N-(1,3-benzodioxol-5-ylmethyl)-N-methyl-1,3-propanediamine.

reactant | N-methyl-β-alaninenitrile | CNCCC#N | C4H8N2
reactant | piperonyl chloride | 50 g | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(1,3-benzodioxol-5-ylmethyl)-N-methyl-1,3-propanediamine | 65 g | O1COC2=C1C=CC(=C2)CN(CCCN)C | C12H18N2O2
